US07790895B2
To a flask charged with (4-bromo-pyridin-3-yl)-methanol (90 mg, 0.48 mmol), 3-cyanophenylboronic acid (84.4 mg, 0.57 mmol) and tetrakis(triphenylphousphine)-palladium(0) (28 mg) was added 2 M Na2CO3 (2 mL) and toluene (3 mL). The reaction mixture was refluxed overnight and then extracted with ethyl acetate. The organic layer was dried over sodium sulfate and purified by column chromatography to yield 3-(3-Hydroxymethyl-pyridin-4-yl)-benzonitrile as a white solid.

reactant | (4-bromo-pyridin-3-yl)-methanol | 0.48 mmol, 90 mg | BrC1=C(C=NC=C1)CO | C6H6BrNO
reactant | 3-cyanophenylboronic acid | 0.57 mmol, 84.4 mg | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | Na2CO3 | 2 M, 2 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(3-Hydroxymethyl-pyridin-4-yl)-benzonitrile | OCC=1C=NC=CC1C=1C=C(C#N)C=CC1 | C13H10N2O
